US04847256
Phenyl[7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]-pyrimidin-3-yl]methanon
A reaction mixture of 1.87 g of (3-amino-1H-pyrazol-4-yl)phenyl-methanone and 2.43 g of 3-dimethylamino-1-[3-(trifluoromethyl)phenyl]-2-propen-1-one in 25 ml of glacial acetic acid was refluxed for 6 hours and then the solvent was removed in vacuo giving a crystalline residue. This residue was partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic layer was dried with anhydrous sodium sulfate and then passed through a short pad of hydrous magnesium silicate. The addition of hexane to the refluxing eluate induced crystallization. After cooling, the desired product was collected as crystals, mp 148°-150° C.

reactant | (3-amino-1H-pyrazol-4-yl)phenyl-methanone | 1.87 g | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
reactant | 3-dimethylamino-1-[3-(trifluoromethyl)phenyl]-2-propen-1-one | 2.43 g | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | Phenyl[7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]-pyrimidin-3-yl]methanon | C1(=CC=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C2=CC(=CC=C2)C(F)(F)F | C20H12F3N3O
